US08492378B2
3-[4-methoxy-3-(trifluoromethyl)phenyl]propionic acid
A mixture of 3-[4-methoxy-3-(trifluoromethyl)phenyl]acrylic acid (2.90 g, 11.8 mmol), 10% palladium on carbon (250 mg), ethanol (60 mL) and tetrahydrofuran (40 mL) was stirred under a hydrogen atmosphere (1 kg/cm2) at room temperature overnight. The reaction mixture was filtered, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=10/1-0/1) to give the title compound (2.40 g, yield 83%) as colorless crystals.

reactant | 3-[4-methoxy-3-(trifluoromethyl)phenyl]acrylic acid | 11.8 mmol, 2.90 g | COC1=C(C=C(C=C1)C=CC(=O)O)C(F)(F)F | C11H9F3O3
reactant | ethanol | 60 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 250 mg | [Pd] | Pd
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | 3-[4-methoxy-3-(trifluoromethyl)phenyl]propionic acid | 2.40 g, yield 83% | COC1=C(C=C(C=C1)CCC(=O)O)C(F)(F)F | C11H11F3O3
